US08008488B2
24.1 2-Chloro-4-phenylpyrimidine
2.78 g (20.14 mmol) of K2CO3, 0.21 g (0.18 mmol) of tetrakis(triphenylphosphine)Pd(0) were added to 1.00 g (6.71 mmol) of 2,4-dichloropyrimidine and 0.82 g (6.71 mmol) of benzeneboronic acid in 29 ml of toluene and 7 ml of methanol, and the reaction mixture was stirred at room temperature for 3 hours. The residue after concentration of the reaction mixture was taken up in water/methyl tert-butyl ether. The aqueous phase was then extracted twice with methyl tert-butyl ether. Thereafter the combined organic phase was washed with water and with a saturated aqueous NaCl solution, and the organic phase was dried, filtered to remove the desiccant and concentrated. The solid brown residue was purified by flash chromatography on silica gel (mobile phase: ethyl acetate/cyclohexane: 10:90); yield: 0.90 g.

reactant | K2CO3 | 20.14 mmol, 2.78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichloropyrimidine | 6.71 mmol, 1.00 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzeneboronic acid | 6.71 mmol, 0.82 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 29 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 7 ml | CO | CH4O
solvent | water methyl tert-butyl ether | O.C(C)(C)(C)OC
product | 2-Chloro-4-phenylpyrimidine | ClC1=NC=CC(=N1)C1=CC=CC=C1 | C10H7ClN2
